* source 2ADC
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N14644 IO_STM IO_LEVEL=0 
+ 0 0
+ +.5uS 1
+REPEAT FOREVER
+ +.5uS 0
+  +.5uS 1
+ ENDREPEAT
R_R1         A N14538  10k TC=0,0 
R_R2         A N14531  20k TC=0,0 
R_R3         B N14524  10k TC=0,0 
R_R4         B N14517  20k TC=0,0 
R_R5         0 A  20k TC=0,0 
R_R6         N14614 B  20k TC=0,0 
X_U1         N14644 N14614 N14517 N14524 N14531 N14538 M_UN0001 M_UN0002
+  M_UN0003 $G_CD4000_VDD $G_CD4000_VSS CD4024B PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
