* source SR
.EXTERNAL OUTPUT output
.EXTERNAL OUTPUT input
Q_Q1         N14621 N14564 N14544 Q2N3906
Q_Q2         N14564 N14564 N14560 Q2N3906
R_R1         N14544 N14548  200 TC=0,0 
R_R2         N14560 N14548  200 TC=0,0 
Q_Q3         OUTPUT N14621 N14564 Q2N3906
R_R3         N14731 N14548  8k TC=0,0 
R_R4         0 N14731  1.6k TC=0,0 
R_R5         N148521 N14874  1k TC=0,0 
R_R6         N148681 N14878  1k TC=0,0 
M_M1         N148521 INPUT N14970 N14970 Mbreakn           
M_M2         N148681 0 N14977 N14977 Mbreakn           
X_R7         N14970 N15215 N14977 POT PARAMS: SET=0.5 VALUE=1K
R_R8         0 INPUT  1M TC=0,0 
R_R9         0 0  1M TC=0,0 
R_R10         0 0  1M TC=0,0 
M_M3         N15215 N15223 N15219 N15219 Mbreakn           
M_M4         N15223 N15223 N15230 N15230 Mbreakn           
R_R11         N15237 N15219  1k TC=0,0 
R_R12         N15237 N15230  1k TC=0,0 
R_R13         0 N15223  1k TC=0,0 
V_V1         N14548 0 15Vdc
V_V2         N15237 0 -15Vdc
C_C1         0 OUTPUT  820p  TC=0,0 
R_Ry         0 N16232  8.5k TC=0,0 
X_R15         N15223 N16232 N16232 POT PARAMS: SET=0.056 VALUE=2.5k
V_V3         INPUT 0  
+PULSE 0 100m 1m 1n 1n 400m 800m
Q_Q4         OUTPUT N14731 N14878 Q2N2222
Q_Q5         N14621 N14731 N14874 Q2N2222
