* source COUNTER
.EXTERNAL OUTPUT clock
.EXTERNAL OUTPUT start
R_R1         0 N14823  2k TC=0,0 
R_R2         N14830 N14823  1k TC=0,0 
R_R3         N14830 N14890  2k TC=0,0 
R_R4         N14834 N14897  2k TC=0,0 
R_R5         N14838 N14920  2k TC=0,0 
R_R6         N14842 N14927  2k TC=0,0 
R_R7         N14830 N14834  1k TC=0,0 
R_R8         N14834 N14838  1k TC=0,0 
R_R9         N14838 N14842  1k TC=0,0 
X_U2A         N14842 N15179 N17095 0 N14980 LM324
X_U2B         N16267 N14980 N15094 0 N15218 LM324
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND CLOCK IO_STM IO_LEVEL=0 
+ 0 0
+ +500uS 1
+REPEAT FOREVER
+ +500uS 0
+  +500uS 1
+ ENDREPEAT
V_V1         N17095 0 5Vdc
R_R10         0 N15179  51k TC=0,0 
R_R11         N14980 N15179  1k TC=0,0 
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND START IO_STM IO_LEVEL=0 
+ 0 0
+ +20mS 1
+REPEAT FOREVER
+ +2mS 0
+  +20mS 1
+ ENDREPEAT
X_U7         N15888 START N14890 M_UN0001 N14897 M_UN0002 N14920 M_UN0003
+  N14927 $G_CD4000_VDD $G_CD4000_VSS CD4024A PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8A         CLOCK N15218 N16199 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U8B         N16199 N16199 N15888 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V2         N16267 0 3.5Vdc
V_V3         N15094 0 5Vdc
